US03971819
3-Benzylamino-4-(2-methyl-6-pyridylamino)-5-sulphamyl-benzoic acid
A suspension of 3-amino-4-(2-methyl-6-pyridylamino)-5-sulphamyl-benzoic acid (0.5 g) in water (25 ml) was adjusted to a pH of 8 by addition of 1n lithium hydroxide. To the resulting solution, benzyl bromide (0.2 g) was added while, under stirring, the pH was kept at 8 by automatic titration with 1N lithium hydroxide. After the base consumpton had become negligible, the crude 3-benzylamino-4-(2-methyl-6-pyridylamino)-5-sulphamyl-benzoic acid was precipitated from the reaction mixture by adjusting the pH to 5 by means of 1N hydrochloric acid. The compound was collected by suction, recrystallized from aqueous ethanol, and dried. The melting point of the compound was 168°-170°C.

reactant | 3-amino-4-(2-methyl-6-pyridylamino)-5-sulphamyl-benzoic acid | 0.5 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC(=N1)C)S(N)(=O)=O | C13H14N4O4S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | benzyl bromide | 0.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | water | 25 ml | O | H2O
product | 3-Benzylamino-4-(2-methyl-6-pyridylamino)-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC(=N1)C)S(N)(=O)=O | C20H20N4O4S
